US05157041
A solution of 4.54 g of 2-benzyloxycarbonyl-1,2,3,4-tetrahydropyrido[3,4-b]indole-1-carboxylic acid in 45 ml of anhydrous tetrahydrofuran was cooled, while protecting with a drying tube, in an ice/acetone bath. 1.82 ml of N-ethylmorpholine and 1.82 ml of isobutyl chloroformate were added, the mixture was stirred for 10 minutes and then 2.1 ml of tert.butylamine were added. The mixture was then stirred at 0° C. for 40 minutes and at room temperature for 45 minutes, diluted with ethyl acetate and washed twice with water, twice with 0.5M sodium hydroxide solution and again with water. The solution was dried over magnesium sulphate and evaporated to dryness. Recrystallization from ethyl acetate and n-hexane gave 1.21 g of tert.butyl 2-benzyloxycarbonyl-1,2,3,4-tetrahydropyrido[3,4-b]indole-1-carboxamide; MS: m/e 406 [M+H]+. A further 0.76 g of identical material was obtained by subjecting the mother liquors to chromatography on silica gel using ethyl acetate/n-hexane (1:1) for the elution.

reactant | 2-benzyloxycarbonyl-1,2,3,4-tetrahydropyrido[3,4-b]indole-1-carboxylic acid | 4.54 g | C(C1=CC=CC=C1)OC(=O)N1C(C=2NC3=CC=CC=C3C2CC1)C(=O)O | C20H18N2O4
reactant | N-ethylmorpholine | 1.82 ml | C(C)N1CCOCC1 | C6H13NO
reactant | isobutyl chloroformate | 1.82 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | tert.butylamine | 2.1 ml | C(C)(C)(C)N | C4H11N
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert.butyl 2-benzyloxycarbonyl-1,2,3,4-tetrahydropyrido[3,4-b]indole-1-carboxamide | 1.21 g | C(C)(C)(C)C1(N(CCC2=C1NC1=CC=CC=C21)C(=O)OCC2=CC=CC=C2)C(=O)N | C24H27N3O3
